US08703768B2
Step 2: 3-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid
To stirred suspension of 3-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid methyl ester (330 mg, 0.84 mmol) in MeOH (5 ml) was added a solution of NaOH (84.5 mg, 2.1 mmol) in water (2 ml) at 0-5° C. After the addition the reaction mixture was stirred at rt for 8 hrs. The solvent was removed in vacuo, the residue was dissolved in water (7 ml), and was washed with EtOAc (2×10 ml). The aqueous layer was then acidified with 1N HCl (pH˜2), and concentrated to obtain the title compound (containing NaCl) as a yellowish sticky solid which was directly used as such for the next step without any further purification.

reactant | 3-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid methyl ester | 0.84 mmol, 330 mg | COC(C1=C(C=NC=C1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)=O | C20H18N6O3
reactant | NaOH | 2.1 mmol, 84.5 mg | [OH-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 3-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid | C1(CC1)C1=CC=C(C(=N1)C(=O)NC1=C(C(=O)O)C=CN=C1)NC=1C=NC=NC1 | C19H16N6O3
